US06458796B1
5-(4-Methyl-benzyl)-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrirnidin-7-one
1.0 g (3.8 mmol) of 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide are dissolved in a solution of 439 mg of sodium (19 mmol) in 38 ml of ethanol. 2.22 g (14.6 mmol) of methyl 4-methylphenylacetate are added, and the mixture is then refluxed overnight. The solvent is removed under reduced pressure, the residue is taken up with CH2Cl2, the organic phase is extracted twice with 1N HCl and dried over Na2SO4 and the solvent is removed under reduced pressure. Two chromatographic purifications (cyclohexane/ethyl acetate=3:1) give 853 mg (57%) of a solid.

reactant | 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide | 3.8 mmol, 1.0 g | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C)C(=O)N | C14H19N5O
reactant | sodium | 19 mmol, 439 mg | [Na] | Na
reactant | methyl 4-methylphenylacetate | 14.6 mmol, 2.22 g | CC1=CC=C(C=C1)CC(=O)OC | C10H12O2
solvent | ethanol | 38 ml | C(C)O | C2H6O
product | 5-(4-Methyl-benzyl)-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrirnidin-7-one | 853 mg, 57% | CC1=CC=C(CC=2NC(C3=C(N2)N(N=N3)C(CCCC3=CC=CC=C3)C)=O)C=C1 | C23H25N5O
